US07723333B2
1-[3-Chloro-5-(trifluoromethyl)pyridin-2-yl]azetidin-3-amine
tert-Butyl {1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]azetidin-3-yl}carbamate (0.85 g, 2.42 mmol) was dissolved in DCM (4 mL) and TFA (3 mL) and stirred at rt for 1 h. The mixture was concentrated and redissolved in EtOAc, washed with saturated aqueous K2CO3. The organic layer was dried with Na2SO4, filtered and evaporated affording the title compound (0.58 g, 95.1%). 1H NMR (500 MHz, CDCl3): δ 1.65 (bs, 2H), 3.91-3.98 (m, 3H), 4.57-4.61 (m, 2H), 7.58 (s, 1H), 8.26 (s, 1H); 13C NMR (125 MHz, CDCl3): δ 43.68, 63.02, 115.38, 116.90 (q, JC-F=33.2 Hz), 123.91 (q, JC-F=270.9 Hz), 134.95, 143.76, 157.56; Mass Spectrum: M+H+ 252.

reactant | tert-Butyl {1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]azetidin-3-yl}carbamate | 2.42 mmol, 0.85 g | ClC=1C(=NC=C(C1)C(F)(F)F)N1CC(C1)NC(OC(C)(C)C)=O | C14H17ClF3N3O2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-Chloro-5-(trifluoromethyl)pyridin-2-yl]azetidin-3-amine | 0.58 g, 95.1% | ClC=1C(=NC=C(C1)C(F)(F)F)N1CC(C1)N | C9H9ClF3N3
